US06008213
Preparation of (±)-10,11-dihydro-3-[3-(2-pyridylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetic acid
A mixture of ethyl (±)-10,11-dihydro-3-[3-(2-pyridylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate (1 mmole) and 1.0 N NaOH (1.2 mmole) in absolute EtOH (10 mL) is warmed in an oil bath set at 50° C. When the reaction is complete, the solvents are removed on the rotavap and the residue is purified by ODS chromatography. Concentration and lyophilization afford the title compound.

reactant | ethyl (±)-10,11-dihydro-3-[3-(2-pyridylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate | 1 mmole | N1=C(C=CC=C1)NCCCOC=1C=CC2=C(CC3=C(C(C2)CC(=O)OCC)C=CC=C3)C1 | C27H30N2O3
reactant | NaOH | 1.2 mmole, 1.0 N | [OH-].[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
product | (±)-10,11-dihydro-3-[3-(2-pyridylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetic acid | N1=C(C=CC=C1)NCCCOC=1C=CC2=C(CC3=C(C(C2)CC(=O)O)C=CC=C3)C1 | C25H26N2O3
